US09422332B2
To a solution of tert-butyl (S)-1-((S)-1-((S)-3-(2,6-difluorophenylcarbamoyl)-3,4-dihydro isoquinolin-2 (1H)-yl)-3-methyl-1-oxobutan-2-ylamino)-1-oxopropan-2-yl(methyl)carbamate (138 mg, 241 μmol, Eq: 1.00) in DCM (2 mL) was added TFA (2.96 g, 2 mL, 26.0 mmol, Eq: 108) and the resulting solution stirred at RT for 1 h. The mixture was concentrated in vacuo, saturated NaHCO3 was added to the residue and the resulting mixture extracted with DCM. The combined extracts were dried over Na2SO4 and concentrated in vacuo. The residue was treated with ether/hexanes to give (S)-2-[(S)-3-methyl-2-((S)-2-methylamino-propionylamino)-butyryl]-1,2,3,4-tetrahydro-isoquinoline-3-carboxylic acid (2,6-difluoro-phenyl)-amide as a white solid which was used without purification (70 mg), m/z=473 (M+H).

reactant | tert-butyl (S)-1-((S)-1-((S)-3-(2,6-difluorophenylcarbamoyl)-3,4-dihydro isoquinolin-2 (1H)-yl)-3-methyl-1-oxobutan-2-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 241 μmol, 138 mg | FC1=C(C(=CC=C1)F)NC(=O)[C@H]1N(CC2=CC=CC=C2C1)C([C@H](C(C)C)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)=O | C30H38F2N4O5
reactant | TFA | 26.0 mmol, 2 mL, 2.96 g | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-[(S)-3-methyl-2-((S)-2-methylamino-propionylamino)-butyryl]-1,2,3,4-tetrahydro-isoquinoline-3-carboxylic acid (2,6-difluoro-phenyl)-amide | FC1=C(C(=CC=C1)F)NC(=O)[C@H]1N(CC2=CC=CC=C2C1)C([C@H](C(C)C)NC([C@H](C)NC)=O)=O | C25H30F2N4O3
